US06410585B1
5-((2S)-2-({(2R)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-{[2-(1-pyrrolidinyl)ethyl]amino}propyl)-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (100 mg, 0.18 mmol) and N-(2-aminoethyl)-pyrrolidinone (33 mg, 0.29 mmol) according to Method C with HPLC purification to give the title compound (10 mg). 1H-NMR (400 MHz, CD3OD) δ 1.36 (s, 9H) 2.05 (s, 4H) 2.68-3.20 (m, 8H) 3.39 (m, 4H) 4.28 (m, 1H) 4.39 (m, 1H) 4.69 (s, 2H) 7.05-7.40 (m, 7H) 7.52 (s, 1H); HRMS m/z 626.2929 (calc. of monoisotopic mass for C32H42N4O9 gives 626.2952).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.18 mmol, 100 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | N-(2-aminoethyl)-pyrrolidinone | 0.29 mmol, 33 mg | NCCN1C(CCC1)=O | C6H12N2O
product | 5-((2S)-2-({(2R)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-oxo-3-{[2-(1-pyrrolidinyl)ethyl]amino}propyl)-2-(carboxymethoxy)benzoic Acid | 10 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(NCCN1CCCC1)=O)CC1=CC=CC=C1 | C32H42N4O9
